US06452001B2
(RS)-6-(3,5-Bis-trifluoromethyl-benzyl)-4-(3,4-dichloro-benzyl)-3-(2-morpholin-4-yl-ethyl)-7,8-dihydro-6H-1,2,3a,6-tetraaza-azulen-5-one
To a solution of 106 mg (0.2 mmol) (RS)-1-(3,5-bis-trifluoromethyl-benzyl)-3-(3,4-dichloro-benzyl)-5-thioxo-[1,4]diazepan-2-one in 1 ml of butan-1-ol 42 mg (0.24 mmol) of 3-morpholin-4-yl-propionic acid hydrazide was added. The reaction mixture was stirred at 130° C. overnight. After evaporation of the solvent in vacuum water (5 ml) was added and the mixture was extracted three times with ethyl acetate. The combined organic layers are dried (MgSO4) and concentrated. The residue was purified by column chromatography (SiO2, dichloromethane/methanol=95:5) to yield 77 mg (59.2%) of the title compound as a light yellow solid. MS m/e (%): 650.0 (M+H+, 100).

reactant | (RS)-1-(3,5-bis-trifluoromethyl-benzyl)-3-(3,4-dichloro-benzyl)-5-thioxo-[1,4]diazepan-2-one | 0.2 mmol, 106 mg | FC(C=1C=C(CN2C(C(NC(CC2)=S)CC2=CC(=C(C=C2)Cl)Cl)=O)C=C(C1)C(F)(F)F)(F)F | C21H16Cl2F6N2OS
reactant | butan-1-ol | 0.24 mmol, 1 ml, 42 mg | C(CCC)O | C4H10O
reactant | 3-morpholin-4-yl-propionic acid hydrazide | N1(CCOCC1)CCC(=O)NN | C7H15N3O2
product | (RS)-6-(3,5-Bis-trifluoromethyl-benzyl)-4-(3,4-dichloro-benzyl)-3-(2-morpholin-4-yl-ethyl)-7,8-dihydro-6H-1,2,3a,6-tetraaza-azulen-5-one | 77 mg, 59.2% | FC(C=1C=C(CN2C(C(N3C(=NN=C3CC2)CCN2CCOCC2)CC2=CC(=C(C=C2)Cl)Cl)=O)C=C(C1)C(F)(F)F)(F)F | C28H27Cl2F6N5O2
